US04588732
Triethyl 2-phosphonopropionate (0.61 g) is added to a solution of lithium diisopropylamide (from 0.32 g of diisopropylamine and 1.7 ml of 1.64M n-butyllithium) in 20 ml of tetrahydrofuran at 0° under nitrogen. After stirring for 10 minutes, 5-(p-formylphenyl)-imidazo[1,5-a]pyridine (0.50 g) is added dropwise in a solution of 5 ml of tetrahydrofuran. The reaction mixture is stirred for two hours at 0° and quenched with 25 ml of water. The layers are separated and aqueous phase is extracted with ethyl acetate (2×10 ml). The organic phases are combined, dried over sodium sulfate, filtered and evaporated to yield an oil which is chromatographed on silica gel with ethyl acetate as eluent to yield 5-[p-(2-ethoxycarbonylprop-1-enyl)phenyl]imidazo[1,5-a]pyridine; IR (CH2Cl2) 1700 cm-1.

reactant | Triethyl 2-phosphonopropionate | 0.61 g | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
reactant | lithium diisopropylamide | 1.64M, 1.7 ml, 0.32 g | C(C)(C)[N-]C(C)C.[Li+]
reactant | 5-(p-formylphenyl)-imidazo[1,5-a]pyridine | 0.50 g | C(=O)C1=CC=C(C=C1)C1=CC=CC=2N1C=NC2 | C14H10N2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-[p-(2-ethoxycarbonylprop-1-enyl)phenyl]imidazo[1,5-a]pyridine | C(C)OC(=O)C(=CC1=CC=C(C=C1)C1=CC=CC=2N1C=NC2)C | C19H18N2O2
